US07723065B2
5. Preparation of Ethyl (R)-3-methoxy-3-phenylpropanoate
Ethyl 3-methoxy-3-phenylpropenoate (206 mg, 1 mmol) was reacted with yeast (10 g) and water (10 ml) according to method I. The product was obtained in 54% yield. Reaction according to method II gave the product in 60% yield.

reactant | Ethyl 3-methoxy-3-phenylpropenoate | 1 mmol, 206 mg | COC(=CC(=O)OCC)C1=CC=CC=C1 | C12H14O3
solvent | water | 10 ml | O | H2O
product | Ethyl (R)-3-methoxy-3-phenylpropanoate | 54% yield | CO[C@H](CC(=O)OCC)C1=CC=CC=C1 | C12H16O3
